US07838543B2
Step 3. N2-(2-Dimethylamino-ethyl)-N2-methyl-benzothiazole-2,6-diamine
Combine N,N,N′-Trimethyl-N′-(6-nitro-benzothiazol-2-yl)ethane-1,2-diamine (5.79 g, 20.6 mmol) and 5% palladium on carbon (5.02 g) in EtOH (200 mL) and THF (25 mL). Shake on a Parr shaker at 60 psi of hydrogen at room temperature for 18 h. Filter the reaction mixture through filter paper, wash with EtOH (50 mL), and concentrate in vacuo to afford the crude title compound (4.1 g, 80%). The crude product was carried on as is. 1H NMR (400 MHz, DMSO-d6): δ 7.10 (d, 1H, J=8.4 Hz), 6.86 (d, 1H, J=1.8 Hz), 6.52 (dd, 1H, J=8.4, 2.2 Hz), 4.80 (br s, 2H), 3.51 (t, 2H, J=6.6 Hz), 3.04 (s, 3H), 2.48 (m, 2H), 2.18 (s, 6H).

reactant | N,N,N′-Trimethyl-N′-(6-nitro-benzothiazol-2-yl)ethane-1,2-diamine | 20.6 mmol, 5.79 g | CN(CCN(C=1SC2=C(N1)C=CC(=C2)[N+](=O)[O-])C)C | C12H16N4O2S
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 5.02 g | [Pd] | Pd
solvent | EtOH | 200 mL | CCO | C2H6O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | N2-(2-Dimethylamino-ethyl)-N2-methyl-benzothiazole-2,6-diamine | 4.1 g, 80% | CN(CCN(C=1SC2=C(N1)C=CC(=C2)N)C)C | C12H18N4S
